US05051509
To a solution of L-ornithine monohydrate (25 g) in methanol (200 ml) was added dropwise thionyl chloride (32.6 ml) under cooling and stirring and the reaction mixture was refluxed. After 6 hours the solvent was removed in vacuum and the residue was then treated with isopropyl ether (300 ml) and the precipitated solid filtered off to give L-ornithine methyl ester dihydrochloride (33.09 g) as a colorless powder (hygroscopic).

reactant | L-ornithine monohydrate | 25 g | O.N[C@@H](CCCN)C(=O)O
reactant | thionyl chloride | 32.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 200 ml | CO | CH4O
product | L-ornithine methyl ester dihydrochloride | 33.09 g | Cl.Cl.COC([C@@H](N)CCCN)=O | InChI=1S/C6H14N2O2.2ClH/c1-10-6(9)5(8)3-2-4-7;;/h5H,2-4,7-8H2,1H3;2*1H/t5-;;/m0../s1
